US08466115B2
3-bromo-4-iodobenzaldehyde
A solution of (3-bromo-4-iodophenyl)methanol (3.1 g, 9.9 mmol) in CH2Cl2/water (2:1, 225 mL) was treated with NaHCO3 (915 mg, 10.9 mmol), NaBr (1060 mg, 10.2 mmol) and TEMPO free radical (40 mg, 0.2 mmol). The resulting mixture was cooled to 0° C. and NaOCl solution (0.8 mL, 10% aq.) was added dropwise. The reaction mixture was left to come to room temperature while stirring. TLC 25:75 EtOAc:heptane after 30 minutes showed approximately 50% conversion to less polar spot. Sequence repeated using same equivalent of reagents. TLC still showed unreacted starting material. The reaction mixture was separated and the organic phase was treated with 1.0× Dess-Martin periodinane (2.1 g, 4.9 mmol) while stirring. TLC after 10 minutes showed complete conversion to less polar spot. The organic phase was washed with saturated NaHCO3, dried over Na2SO4, filtered and evaporated to give an orange solid. The crude material was chromatographed (80 g Redi-Sep column) eluting from 100% heptane to 50:50 EtOAc/heptane to give the intermediate (2.7 g, 87%) as a white solid. 1HNMR (CDCl3) δ ppm: 9.94 (1H), 8.10 (2H), 7.50 (1H).

reactant | (3-bromo-4-iodophenyl)methanol | 9.9 mmol, 3.1 g | BrC=1C=C(C=CC1I)CO | C7H6BrIO
reactant | NaHCO3 | 10.9 mmol, 915 mg | C(=O)(O)[O-].[Na+]
reactant | NaBr | 10.2 mmol, 1060 mg | [Na+].[Br-]
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | NaOCl | 0.8 mL | [O-]Cl.[Na+]
reactant | Dess-Martin periodinane | 4.9 mmol, 2.1 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 water | 225 mL | C(Cl)Cl.O
solvent | heptane | CCCCCCC | C7H16
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-bromo-4-iodobenzaldehyde | 2.7 g, 87% | BrC=1C=C(C=O)C=CC1I | C7H4BrIO
